US09260408B2
2-(6-Chloro-pyrazin-2-ylamino)-ethanol
In a sealed tube, 2,6-dichloropyrazine (1 g, 6.71 mmol) was mixed with 2-aminoethanol (0.492 g, 8.05 mmol), Hunig's base (1.13 g, 8.73 mmol) in BuOH (7 mL) and the reaction mixture was heated to 80° C. over night. The mixture was concentrated in vacuo and the residue partitioned between NaHCO3 (20 mL) and EtOAc (100 mL). The organic phase was separated, washed with brine, dried over Na2SO4, filtered and evaporated to dryness to give the title compound (0.583 g, 50%) as a light yellow foam. MS: 174.1 (M+H+).

reactant | 2,6-dichloropyrazine | 6.71 mmol, 1 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-aminoethanol | 8.05 mmol, 0.492 g | NCCO | C2H7NO
reactant | Hunig's base | 8.73 mmol, 1.13 g | CCN(C(C)C)C(C)C | C8H19N
solvent | BuOH | 7 mL | C(CCC)O | C4H10O
product | 2-(6-Chloro-pyrazin-2-ylamino)-ethanol | 0.583 g, 50% | ClC1=CN=CC(=N1)NCCO | C6H8ClN3O
